US06673811B1
E. Preparation of 5-(1-Methyl-piperidin-4-yloxy)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic Acid Ethyl Ester
A mixture of 3-dimethylamino-2-[6-(1-methyl-piperidin-4-yloxy)-3-nitro-pyridin-2-yl]-acrylic acid ethyl ester (3.69 g, 9.76 mmol), RANEY 2400 nickel (3.7 g wet) in EtOH (100 mL) is shaken at room temperature under an atmosphere of hydrogen (50 psi) for a period of 7 h. During this time period, the pressure dropped to 20 psi. The reaction vessel is recharged with hydrogen (50 psi) and shaken at room temperature for a period of 17 h. The reaction mixture is filtered through celite and the filtrate washed with EtOH (300 mL) taking care to never allow the filtrate to become dry. The filtrate is concentrated and purified by chromatography on silica (gradient elution with 10% MeOH/CHCl3 with 0.1% NH4OH to 14% MeOH/CHCl3 with 0.1% NH4OH) to give the title compound as a yellow solid: m.p=231.9° C.; 1H NMR (400 MHz, CDCl3) δ 7.93 (s, 1H), 7.64 (d, 1H, J=8.7 Hz), 6.51 (d, 1H, J=8.7 Hz), 5.36-5.28 (m, 1H), 4.26 (q, 2H, J=7.1 Hz), 3.15-3.06 (m, 2H), 3.00-2.90 (m, 2H), 2.61 (s, 3H), 2.30-2.20 (m, 2H), 2.18-2.08 (m, 2H), 1.30 (t, 3H, J−7.1 Hz); 13C NMR (100 MHz, CDCl3) δ 165.0, 159.3, 140.5, 133.7, 125.8, 123.7, 107.3, 106.6, 66.1, 60.0, 51.6, 44.2, 28.5, 14.6; MS (CI) m/z 304.3 (M+1).

reactant | 3-dimethylamino-2-[6-(1-methyl-piperidin-4-yloxy)-3-nitro-pyridin-2-yl]-acrylic acid ethyl ester | 9.76 mmol, 3.69 g | C(C)OC(C(=CN(C)C)C1=NC(=CC=C1[N+](=O)[O-])OC1CCN(CC1)C)=O | C18H26N4O5
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | nickel | 3.7 g | [Ni] | Ni
product | 5-(1-Methyl-piperidin-4-yloxy)-1H-pyrrolo[3,2-b]pyridine-3-carboxylic Acid Ethyl Ester | C(C)OC(=O)C1=CNC=2C1=NC(=CC2)OC2CCN(CC2)C | C16H21N3O3
